US08580794B2
3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide
Tert-butyl 4-(2-nitro-4-sulfamoylphenylamino)piperidine-1-carboxylate was dissolved in dichloromethane (3 mL) and treated with 1N HCl in ether (4 mL). The reaction was stirred overnight then concentrated to give the title compound.

reactant | Tert-butyl 4-(2-nitro-4-sulfamoylphenylamino)piperidine-1-carboxylate | [N+](=O)([O-])C1=C(C=CC(=C1)S(N)(=O)=O)NC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N4O6S
reactant | HCl | 1N | Cl | ClH
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | ether | 4 mL | CCOCC | C4H10O
product | 3-nitro-4-(piperidin-4-ylamino)benzenesulfonamide | [N+](=O)([O-])C=1C=C(C=CC1NC1CCNCC1)S(=O)(=O)N | C11H16N4O4S
